US08048899B2
To a solution of 6.76 mL (53 mmol) of methyl 2,2-dimethyl-3-hydroxypropionate in anhydrous THF/DMF (110 mL, 10/1) are added 4.33 g (63.6 mmol) of imidazole and 11.3 mL (53 mmol) of chlorotriisopropylsilane under nitrogen atmosphere. After stirring at room temperature for 20 h, the reaction mixture is concentrated under reduced pressure and the residue is dissolved in TBME (175 mL). The organic layer is washed with water (30 mL), brine (30 mL), dried over Na2SO4 and filtered. The filtrate is concentrated under reduced pressure to afford 13.25 g of 2,2-dimethyl-3-triisopropylsilanyloxy-propionic acid methyl ester as a yellow oil, which is used in the next step without further purification. Yield: 79%; 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 1.01-1.07 (21H, m), 1.18 (6H, s), 3.66 (3H, s), 3.69 (2H, s)

reactant | methyl 2,2-dimethyl-3-hydroxypropionate | 53 mmol, 6.76 mL | CC(C(=O)OC)(CO)C | C6H12O3
reactant | imidazole | 63.6 mmol, 4.33 g | N1C=NC=C1 | C3H4N2
reactant | chlorotriisopropylsilane | 53 mmol, 11.3 mL | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
solvent | THF DMF | 110 mL | C1CCOC1.CN(C)C=O
product | 2,2-dimethyl-3-triisopropylsilanyloxy-propionic acid methyl ester | 13.25 g, Yield: 79% | COC(C(CO[Si](C(C)C)(C(C)C)C(C)C)(C)C)=O | C15H32O3Si
